US07319099B2
(a) 4-(3-Chloro-propane-1-sulfonyl)-1,2-difluoro-benzene
To 28.3 mmol 3,4-difluoro-benzenesulfinic acid and 36.8 mmol triethylamine in 100 ml DMF was added 70.7 mmol 1-chloro-3-iodopropane and the mixture stirred at RT for 1 h. The reaction mixture was then poured onto water and extracted three times with ethyl acetate. The combined organic phases were then washed with saturated aq. NaCl solution, dried over Na2SO4, and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane gradient) to afford the title compound.

reactant | 3,4-difluoro-benzenesulfinic acid | 28.3 mmol | FC=1C=C(C=CC1F)S(=O)O | C6H4F2O2S
reactant | triethylamine | 36.8 mmol | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-3-iodopropane | 70.7 mmol | ClCCCI | C3H6ClI
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(3-Chloro-propane-1-sulfonyl)-1,2-difluoro-benzene | ClCCCS(=O)(=O)C1=CC(=C(C=C1)F)F | C9H9ClF2O2S
